US05245027
Diphenylmethyl 7-Phenoxyacetamido-3-(Z-1-propenyl)-3-cephem-4carboxylate
A solution of palladium (II) acetate (3.6 mg, 0.016 mmole, 0.1 eq.) in dichloromethane (2 mL) was treated with Z-1-propenyl tri-n-butylstannane (66.2 mg, 0.2 mmole, 1.2 eq.) under an inert atmosphere and allowed to stir for 3 minutes. The resulting dark suspension was then treated with diphenylmethyl 7-phenoxyacetamido-3-[(fluorosulfonyl) oxy]-3-cephem-4-carboxylate (100.0 mg, 0.16 mmole, 1.0 eq.) in one portion and the reaction mixture was allowed to stir for 10 minutes. The reaction mixture was diluted with additional dichloromethane and washed with water (1×10 mL). The organic fraction was dried over magnesium sulfate and purified by flash filtration through a pad of silica gel (W. R. Grace, 951W) first with dichloromethane (50 mL) to remove the residual stannane and then with 10% ethyl acetate in dichloromethane (50 mL) which upon concentration furnished 80.4 mg (89%) of the title compound as a pale yellow solid. The product was then recrystallized from isopropyl alcohol to afford 62.3 mg (69%) of a white solid, mp. 103°-104° C.

reactant | Z-1-propenyl tri-n-butylstannane | 0.2 mmole, 66.2 mg, 1.2 eq. | C(=C/C)/[Sn](CCCC)(CCCC)CCCC
reactant | diphenylmethyl 7-phenoxyacetamido-3-[(fluorosulfonyl) oxy]-3-cephem-4-carboxylate | 0.16 mmole, 100.0 mg, 1.0 eq. | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23FN2O8S2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 0.016 mmole, 3.6 mg, 0.1 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Diphenylmethyl 7-Phenoxyacetamido-3-(Z-1-propenyl)-3-cephem-4carboxylate | 80.4 mg, 89% | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H28N2O5S
